US09340555B2
A mixture of 7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxylic acid (100 mg, 0.22 mmol), HATU (90 mg, 0.24 mmol) and N,N-diisopropylethylamine (55 mg, 0.43 mmol) in anhydrous acetonitrile (10 ml) was stirred at room temperature for 30 minutes, followed by addition of 3-(4-methylpiperazin-1-yl)propan-1-amine (40 mg, 0.25 mmol). The mixture was stirred for another 10 minutes and poured into 100 ml of water. The precipitates were filtered, washed with water and dried in vacuo to give 7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]-N-[3-(4-methylpiperazin-1-yl)propyl]thieno[3,2-b]pyridine-2-carboxamide as brown solid. Yield: 110 mg, 84%.

reactant | 7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxylic acid | 0.22 mmol, 100 mg | FC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)O)C=CC1NC(=O)NC1=C(C=CC(=C1)C)F | C22H15F2N3O4S
reactant | HATU | 0.24 mmol, 90 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.43 mmol, 55 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(4-methylpiperazin-1-yl)propan-1-amine | 0.25 mmol, 40 mg | CN1CCN(CC1)CCCN | C8H19N3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | 7-[3-fluoro-4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]-N-[3-(4-methylpiperazin-1-yl)propyl]thieno[3,2-b]pyridine-2-carboxamide | FC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)NCCCN3CCN(CC3)C)C=CC1NC(=O)NC1=C(C=CC(=C1)C)F | C30H32F2N6O3S
